US08791129B2
[2-Amino-6-(2-cyclobutylaminomethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone (“A24”)
200 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzaldehyde are dissolved in 3 ml of 1,2-dichloroethane and 3 ml of tetrahydrofuran. 106 μl of cyclobutylamine and 35 μl of glacial acetic acid are added, and the mixture is stirred at 60° C. for 6 h. After cooling to 25° C., 226 mg of sodium triacetoxyborohydride are added and stirred at 25° C. for a further 12 h. The mixture is poured into water, extracted three times with dichloromethane, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness and purified by chromatography (reversed phase HPLC).

reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]benzaldehyde | 200 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=O)C=CC=C1 | C24H18N4O2
reactant | cyclobutylamine | 106 μl | C1(CCC1)N | C4H9N
reactant | acetic acid | 35 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 226 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [2-Amino-6-(2-cyclobutylaminomethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC=C1)CNC1CCC1 | C28H27N5O
